US06881755B2
2-(N-benzyloxycarbonylamino)ethanesulfonic acid (0.6 g; 2.31 mmol) was suspended in dry toluene (6 mL) and PCl5 was added (0.65 g; 3.11 mmol). The mixture was refluxed for 2 h, until complete dissolution of the reagents. After cooling at room temperature, the solvent was evaporated off under vacuum to give the crude 2-(N-benzyloxycarbonylamino)-ethanesulfonyl chloride pure enough for the next step.

reactant | 2-(N-benzyloxycarbonylamino)ethanesulfonic acid | 2.31 mmol, 0.6 g | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)O | C10H13NO5S
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(N-benzyloxycarbonylamino)-ethanesulfonyl chloride | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)Cl | C10H12ClNO4S
